US06051712
A suspension of 0.420 g (0.8 mmol) of 2,2,2-trichloroethyl 4-(4-chloro-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate and 300 mg of zinc in 10 ml of acetic acid was stirred at room temperature for 12 hours. The reaction solution was diluted with 40 ml of water and extracted four times with 30 ml of methylene chloride. The organic phase was washed twice with 40 ml of 1N sodium hydroxide solution each time, dried over sodium sulphate, filtered and evaporated. The residue was chromatographed on silica gel using a 9:1 mixture of methylene chloride and methanol as the eluent. There was obtained 0.210 g (74% of theory) of (3RS,4RS)-4-(4-chloro-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine, MS: 210 (M-C11H9)+, which was converted into the hydrochloride of m.p. 159-161° C. (dec.) with a solution of hydrogen chloride in methanol.

reactant | 2,2,2-trichloroethyl 4-(4-chloro-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 0.8 mmol, 0.420 g | ClC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC(Cl)(Cl)Cl)OCC1=CC2=CC=CC=C2C=C1 | C25H23Cl4NO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
catalyst | zinc | 300 mg | [Zn] | Zn
product | (3RS,4RS)-4-(4-chloro-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine | 0.210 g, 74% | ClC1=CC=C(C=C1)C1C(CNCC1)OCC1=CC2=CC=CC=C2C=C1 | C22H22ClNO
